US09108969B2
Step C: Preparation of 7-Methoxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one
To a suspension of ethyl 5-methoxy-4-methyl-1H-indole-2-carboxylate (712 mg, 3.05 mmol) in toluene (10 mL) was added a 1 M solution of KOtBu in THF (3.97 mL, 3.97 mmol). The reaction mixture was stirred at room temperature for 5 min, methyl acrylate (825 μL, 9.15 mmol) was added. The reaction was stirred at reflux overnight and neutralized with 1 N HCl aqueous solution. The solid was collected and divided into three microwave vial. Each was added AcOH (8 mL) and H2O (1 mL), and heated at 180° C. for 15 min under microwave irradiation. The solvent was evaporated and the residue was purified by silica gel column chromatography to give the title compound as a yellow solid (500 mg). LCMS m/z=216.2 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 2.45 (s, 3H), 3.21 (t, J=6.5 Hz, 2H), 3.68 (s, 3H), 4.40 (t, J=6.2 Hz, 2H), 6.98 (s, 1H), 7.13 (d, J=9.0 Hz, 1H), 7.23 (d, J=9.0 Hz, 1H).

reactant | ethyl 5-methoxy-4-methyl-1H-indole-2-carboxylate | 3.05 mmol, 712 mg | COC=1C(=C2C=C(NC2=CC1)C(=O)OCC)C | C13H15NO3
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 3.97 mmol, 3.97 mL | C1CCOC1 | C4H8O
reactant | methyl acrylate | 9.15 mmol, 825 μL | C(C=C)(=O)OC | C4H6O2
reactant | HCl | 1 N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methoxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one | 500 mg | COC1=C(C=2C=C3N(C2C=C1)CCC3=O)C | C13H13NO2
